US06884813B2
Preparation of N-[[(5S)-3-[4-(3,4-dihydro-1,1-dioxido-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
Trifluoroacetic anhydride (2.98 mL, 21.1 mmol) is added dropwise at room temperature to a solution of N-[[(5S)-3-[4-(tetrahydro-1-oxido-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (2.46 g, 7.02 mmol; prepared as described in International Publication WO 97/09328) and N-methylmorpholine (3.86 mL, 35.1 mmol) in dichloromethane (60 mL). The reaction mixture is stirred overnight at room temperature and then evaporated to dryness. The resulting crude N-[[(5S)-3-[4-(3,4-dihydro-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (2.77 g) is dissolved in tetrahydrofuran (100 mL) and peracetic acid (7.01 mL of a 32% solution in acetic acid) added dropwise at 0° C. The reaction mixture is allowed to warm to room temperature, stirred overnight, and then evaporated to dryness. The residue is purified by flash column chromatography (ethyl acetate) to give the title compound as white solid.

reactant | Trifluoroacetic anhydride | 21.1 mmol, 2.98 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-[[(5S)-3-[4-(tetrahydro-1-oxido-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 7.02 mmol, 2.46 g | O=S1CCC(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C17H22N2O4S
reactant | N-methylmorpholine | 35.1 mmol, 3.86 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | N-[[(5S)-3-[4-(3,4-dihydro-1,1-dioxido-2H-thiopyran-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | O=S1(CCC(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)=O | C17H20N2O5S
